* C:\Users\Jacob\Documents\ltspice-git\ece4010-ofdr-wattsjake\trans_impedance_op.asc
XU1 0 Iin VCC VEE Vout LM358
R1 Vout Iin 1.3k
R2 0 Vout 10k
V1 VCC 0 15
V2 0 VEE 15
I1 Iin 0 SINE(0 0.01 1k)
* Transimpedance Amplifier Draft
.lib C:\Users\Jacob\Documents\ltspice-git\lib\LM358.lib
.tran 10m
.backanno
.end
